US07067506B2
Step 1: Quinoxaline-2-carbonyl azide.
A stirred solution quinoxaline-2-carboxylic acid (348 mg, 2 mmol) in THF (6 mL) at rt under nitrogen was treated with diisopropylethylamine (365 μL, 2.1 mmol) followed by diphenylphosphoryl azide (410 μL, 1.9 mmol). After stirring overnight the reaction was diluted to 60 mL with Et2O and washed 2×60 mL with sat. NaCl. There was an insoluble brown oil, which was drained off with the aqueous layer and assumed to be a diphenyl phosphate impurity. The organics were dried (MgSO4), filtered and concentrated to a tan solid, which corresponds to the acyl azide (350 mg, 92%). 1H-NMR (400 MHz, CDCl3) δ9.58 (s, 1H), 8.32 (d, 1H), 8.21 (d, 1H), 7.94 (m, 2H)

reactant | quinoxaline-2-carboxylic acid | 2 mmol, 348 mg | N1=C(C=NC2=CC=CC=C12)C(=O)O | C9H6N2O2
reactant | diisopropylethylamine | 2.1 mmol, 365 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diphenylphosphoryl azide | 1.9 mmol, 410 μL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
product | Quinoxaline-2-carbonyl azide | N1=C(C=NC2=CC=CC=C12)C(=O)N=[N+]=[N-] | C9H5N5O
